US08426411B2
To the solution of N-((1S,3R,4S)-3-ethyl-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)cyclopropanesulfonamide (0.05 g, 0.134 mmol, WO2009152133) in DMF (4 mL), KOH (0.022 g, 0.401 mmol) was added and the mixture was stirred at rt for about 5 min. Tosyl cyanide (0.024 g, 0.134 mmol) was added and stirring was continued for about 2 h. The solvent was removed under reduced pressure and the residue purified by preparative HPLC (Table 1, Method q) to yield N-cyano-N-((1S,3R,4S)-3-ethyl-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)cyclopropanesulfonamide (0.0025 g, 5%) as an off-white solid: LC/MS (Table 1, Method a) Rt=1.84 min; MS m/z: 400 (M+H)+.

reactant | N-((1S,3R,4S)-3-ethyl-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)cyclopropanesulfonamide | 0.134 mmol, 0.05 g | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)NC=C1)NS(=O)(=O)C1CC1 | C17H22N6O2S
reactant | KOH | 0.401 mmol, 0.022 g | [OH-].[K+]
reactant | Tosyl cyanide | 0.134 mmol, 0.024 g | S(=O)(=O)(C1=CC=C(C)C=C1)C#N | C8H7NO2S
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-cyano-N-((1S,3R,4S)-3-ethyl-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)cyclopropanesulfonamide | 0.0025 g, 5% | C(#N)N(S(=O)(=O)C1CC1)[C@H]1C[C@H]([C@H](C1)C1=NN=C2N1C1=C(N=C2)NC=C1)CC | C18H21N7O2S
